US04229519
EXAMPLE 8--Synthesis of N-(2-Chloromethylcarbonyloxypropyl)methacrylamide
The compound was prepared by the method described in Example 7, using N-(2-hydroxypropyl)methacrylamide (14.3 g), dichloroethane (200 ml), chloroacetyl chloride (11.3 g) and triethylamine (10.1 g). The product distilled at 112° C./0.1 mm (12 g) and was obtained as a viscous oil.

reactant | N-(2-hydroxypropyl)methacrylamide | 14.3 g | OC(CNC(C(=C)C)=O)C | C7H13NO2
reactant | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
reactant | chloroacetyl chloride | 11.3 g | ClCC(=O)Cl | C2H2Cl2O
solvent | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
product | N-(2-Chloromethylcarbonyloxypropyl)methacrylamide | ClCC(=O)OC(CNC(C(=C)C)=O)C | C9H14ClNO3
